US06924278B2
A suspension of 1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]-2-[3-(N-methylamino)benzyl]piperazine (0.19 g), 37% aqueous formaldehyde (50 μl), sodium triacetoxyborohydride (79 mg) and acetic acid (22 μl) in dichloromethane (5 ml) was stirred for 2 hours at room temperature. Then additional 37% aqueous formaldehyde (25 μl), acetic acid (10 μl) and sodium triacetoxyborohydride (40 mg) were added to the reaction mixture and the whole was stirred for further 1 hour. The mixture was poured into aqueous saturated sodium hydrogen carbonate solution and extracted with dichloromethane. The extract was dried over magnesium sulfate and evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using a mixture of dichloromethane and methanol (40:1). The fractions containing the objective compound were collected and evaporated under reduced pressure and treated with 4N hydrogen chloride in ethyl acetate solution to give 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(N,N-dimethylamino)benzyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine trihydrochloride (0.21 g).

reactant | 1-[3,5-bis(trifluoromethyl)benzoyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]-2-[3-(N-methylamino)benzyl]piperazine | 0.19 g | FC(C=1C=C(C(=O)N2C(CN(CC2)CC#CCN2C(COCC2)(C)C)CC2=CC(=CC=C2)NC)C=C(C1)C(F)(F)F)(F)F | C31H36F6N4O2
reactant | formaldehyde | 50 μl | C=O | CH2O
reactant | sodium triacetoxyborohydride | 79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | formaldehyde | 25 μl | C=O | CH2O
reactant | sodium triacetoxyborohydride | 40 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | acetic acid | 10 μl | C(C)(=O)O | C2H4O2
solvent | acetic acid | 22 μl | C(C)(=O)O | C2H4O2
product | 1-[3,5-bis(trifluoromethyl)benzoyl]-2-[3-(N,N-dimethylamino)benzyl]-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine trihydrochloride | 0.21 g | Cl.Cl.Cl.FC(C=1C=C(C(=O)N2C(CN(CC2)CC#CCN2C(COCC2)(C)C)CC2=CC(=CC=C2)N(C)C)C=C(C1)C(F)(F)F)(F)F | InChI=1S/C32H38F6N4O2.3ClH/c1-30(2)22-44-15-14-41(30)11-6-5-10-40-12-13-42(28(21-40)17-23-8-7-9-27(16-23)39(3)4)29(43)24-18-25(31(33,34)35)20-26(19-24)32(36,37)38;;;/h7-9,16,18-20,28H,10-15,17,21-22H2,1-4H3;3*1H
